US05610303
N- (5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-{3-[1-(2-acetylaminobenzyl)piperidin-4-yl]propanoyl}aniline (Compound II-249 in Table 1)
To 0.17 g of N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-(3-[1-(2-aminobenzyl)piperidin-4-yl]propanoyl)aniline were added 30 ml of chloroform, 1 ml of acetic anhydride and 0.38 g of 4-dimethylaminopyridine, and the mixture was stirred at 50° C. for 10 minutes. Then, the solvent was removed by distillation under reduced pressure and the obtained residue was applied to silica gel column chromatography to obtain 0.06 g of the title compound as white crystal.

reactant | N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-(3-[1-(2-aminobenzyl)piperidin-4-yl]propanoyl)aniline | 0.17 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(CCC2CCN(CC2)CC2=C(C=CC=C2)N)=O | C28H33N5O
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.38 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N- (5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-{3-[1-(2-acetylaminobenzyl)piperidin-4-yl]propanoyl}aniline | 0.06 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(CCC2CCN(CC2)CC2=C(C=CC=C2)NC(C)=O)=O | C30H35N5O2
